US04696949
(a) 4-[(tetrahydropyran-2-yl)oxy]-2-phenyl-1-(4-methoxyphenyl)butan-1-one
The compound is prepared from 22.6 g of 4-methoxydesoxybenzoin and 20.9 g of tetrahydropyran-2-yl ether-protected bromoethanol according to the procedure described in Example 1(a).

reactant | 4-methoxydesoxybenzoin | 22.6 g | COC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C15H14O2
reactant | tetrahydropyran-2-yl ether | 20.9 g | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | bromoethanol | BrC(C)O | C2H5BrO
product | 4-[(tetrahydropyran-2-yl)oxy]-2-phenyl-1-(4-methoxyphenyl)butan-1-one | O1C(CCCC1)OCCC(C(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C22H26O4
